US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3-fluorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 3-fluorophenylboronic acid (120 mg, 0.86 mmol) the subtitle compound was obtained, (103 mg, 49%). 1H NMR (DMSO) δ 8.59(d, 1H), 8.40(dd, 1H), 8.08(d, 1H), 7.82(d, 1H), 7.72(dd, 1H), 7.52(m, 4H), 7.17(dt, 1H), 4.02(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 3-fluorophenylboronic acid | 0.86 mmol, 120 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3-fluorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=CC=C2)F | C20H13FN2O4
